US07915415B2
Step 1: 2-(1H-benzo[d]imidazol-1-yl)benzonitrile 1
Benzimidazole (2.00 grams, 16.9 mmol) was dissolved in 30 mL of anhydrous dimethylformamide. To this was added sodium hydride (0.68 grams 60%, 16.9 mmol). This was stirred at ambient temperature for 30 min. before addition of 1.80 mL (16.9 mmol) of 2-fluorobenzonitrile. The reaction was stirred at 50° C. for 18 hours after which time the mixture was cooled in an ice-water bath and diluted with 100 mL of water. The product was extracted with ethyl acetate. The organic layer washed with water, dried over sodium sulfate and evaporated in vacuo giving the title compound. Mass spectral and NMR data agree with the structure. Also synthesized analogously was the 5,6-dimethyl benzimidazole analog.

reactant | Benzimidazole | 16.9 mmol, 2.00 grams | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | sodium hydride | 16.9 mmol, 0.68 grams | [H-].[Na+]
reactant | 2-fluorobenzonitrile | 16.9 mmol, 1.80 mL | FC1=C(C#N)C=CC=C1 | C7H4FN
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | 2-(1H-benzo[d]imidazol-1-yl)benzonitrile | N1(C=NC2=C1C=CC=C2)C2=C(C#N)C=CC=C2 | C14H9N3
